US07390910B2
N,β,β,3-Tetramethyl-L-phenylalanyl-N1-[(1S,2E)-1-isopropyl-3-methyl-4-morpholin-4-yl-4-oxobut-2-enyl]-N1,3-dimethyl-L-valinamide
By using an analogous procedure to that described in General Procedure I Method A, N,β,β,3-tetramethyl-L-phenylalanyl-N1-[(1S,2E)-3-carboxy-1-isopropyl-2-butenyl]-N1,3-dimethyl-L-valinamide (100 mg, 0.205 mmol) is treated with hydroxybenzotriazole (36 mg, 0.27 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (59 mg, 0.31 mmol) in anhydrous acetonitrile (3 ml) at room temperature for 15 hours, followed by addition of morpholine (0.036 ml, 0.41 mmol). After stirring at room temperature for 15 hours, the product is purified using the aqueous work-up method, to provide the title compound (89 mg, 78%) as a orange amorphous solid.

reactant | N,β,β,3-tetramethyl-L-phenylalanyl-N1-[(1S,2E)-3-carboxy-1-isopropyl-2-butenyl]-N1,3-dimethyl-L-valinamide | 0.205 mmol, 100 mg | CN[C@@H](C(C1=CC(=CC=C1)C)(C)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N(C)[C@H](\C=C(/C)\C(=O)O)C(C)C | C28H45N3O4
reactant | hydroxybenzotriazole | 0.27 mmol, 36 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.31 mmol, 59 mg | Cl.CN(CCCN=C=NCC)C
reactant | morpholine | 0.41 mmol, 0.036 ml | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | N,β,β,3-Tetramethyl-L-phenylalanyl-N1-[(1S,2E)-1-isopropyl-3-methyl-4-morpholin-4-yl-4-oxobut-2-enyl]-N1,3-dimethyl-L-valinamide | 89 mg, 78% | CN[C@@H](C(C1=CC(=CC=C1)C)(C)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N(C)[C@H](\C=C(\C(=O)N1CCOCC1)/C)C(C)C | C32H52N4O4
